US07741315B2
Step 1: (3R)-3-(Benzyloxy)-4,4-dimethyldihydrofuran-2(3H)-one
A mixture of D(−)-pantolactone (20.0 g, 153.7 mmol) and sodium hydride (4.4 g, 184.4 mmol) in anhydrous THF was stirred under an atmosphere of nitrogen at room temperature for 1 hour. The resultant mixture was treated with benzyl bromide (31.5 g, 184.4 mmol) and stirred at room temperature overnight. The product mixture was treated with water and diluted with dichloromethane. The organic extract was washed with brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under vacuum. The residue was subjected to purification on silica gel eluting with 0-5% methanol in dichloromethane gradient. Collection and concentration of appropriate fractions provided the title compound.

reactant | D(−)-pantolactone | 153.7 mmol, 20.0 g | CC(C)(CO)C1C(=O)OO1 | C6H10O4
reactant | sodium hydride | 184.4 mmol, 4.4 g | [H-].[Na+]
reactant | benzyl bromide | 184.4 mmol, 31.5 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (3R)-3-(Benzyloxy)-4,4-dimethyldihydrofuran-2(3H)-one | C(C1=CC=CC=C1)O[C@H]1C(OCC1(C)C)=O | C13H16O3
